US20010014691A1
3-(3-Chloropropoxy)phenylamine
Under a nitrogen atmosphere, a solution of 1-(3-chloropropoxy)-3-nitrobenzene (7.90 g, 36.64 mmol) in ethanol was added to 10% palladium on carbon in a Parr hydrogenation bottle. The mixture was hydrogenated on a Parr shaker. Because of very little hydrogen uptake, Raney® nickel (50% slurry in water) was carefully added to the reaction mixture and hydrogenation continued. When hydrogenation was complete the mixture was filtered through a mat of Celite® filter aid. The filtrate was concentrated on a rotary evaporator to an oil.

reactant | 1-(3-chloropropoxy)-3-nitrobenzene | 36.64 mmol, 7.90 g | ClCCCOC1=CC(=CC=C1)[N+](=O)[O-] | C9H10ClNO3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
catalyst | Raney® nickel | [Ni] | Ni
product | 3-(3-Chloropropoxy)phenylamine | ClCCCOC=1C=C(C=CC1)N | C9H12ClNO
